* PSpice Model Editor - Version 10.0.0

*$
.SUBCKT ISO7320C 1 2 3 4 5 6 7 8
* 1: VCC1
* 2: INA
* 3: INB
* 4: GND1
* 5: GND2
* 6: OUTB
* 7: OUTA
* 8: VCC2
R1 1 4 1e9
R2 2 4 1e9
R3 3 4 1e9

R6 6 5 1e9
R7 7 5 1e9
R8 8 5 1e9

E6 6 5 3 4 1.0
E7 7 5 2 4 1.0

.ENDS ISO7320C
*$