* PSpice Model Editor - Version 10.0.0

.SUBCKT UCC27511ADBV VDD OUTH OUTL COMM IN- IN+
** The numbering and naming matches IC footprint
* 1: VDD
* 2: OUTH
* 3: OUTL
* 4: GND
* 5: IN-
* 6: IN+

*Agh %vd(IN+, COMM) %vd(OUTH, COMM) gd_simple_limit
*Agl %vd(IN+, COMM) %vd(OUTL, COMM) gd_simple_limit
*.model gd_simple_limit limit(in_offset=0.1 gain=3 out_lower_limit=-0.2 out_upper_limit=10.0 limit_range=0.10 fraction=FALSE)

Agh %vd(IN+, COMM) %vd(VDD, COMM) %vd(COMM, COMM) %vd(OUTH, COMM) gd_limit
Agl %vd(IN+, COMM) %vd(VDD, COMM) %vd(COMM, COMM) %vd(OUTL, COMM) gd_limit
.model gd_limit climit (fraction=False gain=3 in_offset=0.0 limit_range=0.1 lower_delta=0.0 upper_delta=0.0)

.ENDS UCC27511ADBV

.SUBCKT UCC27511ADBVOLD 1 2 3 4 5 6
** The numbering and naming matches IC footprint
* 1: VDD
* 2: OUTH
* 3: OUTL
* 4: GND
* 5: IN-
* 6: IN+

R1 1 4 1e12
I1 1 4 0
R5 5 4 1e12
R6 6 4 1e12

E2 2 4 6 4 3.0
E3 3 4 6 4 3.0

.ENDS UCC27511ADBVOLD

*$END OF FILE