* PSpice Model Editor - Version 10.0.0

*$
.SUBCKT LM5017MR 1 2 3 4 5 6 7 8 9
* 1: GND or RTN
* 2: VIN
* 3: UVLO
* 4: RON
* 5: FB
* 6: VCC
* 7: BST
* 8: SW
* 9: GND

R5 5 1 1e9
R6 6 1 1e9
R7 7 1 1e9

I2 2 1 0.1
I3 3 1 1e-9
I4 4 1 1e-9
V8 8 1_1 5
R8 1_1 1 0.01

.ENDS LM5017MR
*$