* -*- spice -*-
* http://www.onsemi.com/pub_link/Collateral/1N5919BRL.SP3
.SUBCKT d1n5919brl 2 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
* Model generated on Jun 22, 2004
* MODEL FORMAT: SPICE3
*     anode cathode
*node: 2      1
*    Forward Section
D1 2 1 MD1
.MODEL MD1 D IS=1.33275e-21 N=1 XTI=1 RS=0.1
+ CJO=1e-11 TT=1e-08
*    Leakage Current
R 1 2 600000 MDR	
.MODEL MDR R TC1=0 TC2=0
*    Breakdown
RZ 2 3 0.520393
IZG 4 3 0.3204
R4 4 3 100
D3 3 4 MD3
.MODEL MD3 D IS=2.5e-12 N=2.40102 XTI=0 EG=0.1
D2 5 4 MD2
.MODEL MD2 D IS=2.5e-12 N=3.19856 XTI=0 EG=0.1
EV1 1 5 6 0 1
IBV 0 6 0.001
RBV 6 0 5153.19 MDRBV
.MODEL MDRBV R TC1=1.79e-08
*-- SPICE3 DIODE MODEL DEFAULT PARAMETER
*  VALUES ARE ASSUMED
*IS=1E-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
.ENDS d1n5919brl
